US04684640
4-Nitrobenzyl 3-(4-methoxyphenoxy)-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate
A mixture of 422 mg of 4-nitrobenzyl 2-(4-allylsulphinylazetidin-2-on-1-yl)-3-(4-methoxyphenoxy)-3-thioxopropanate, 214 mg of triphenylphosphine, and dioxan was heated under an argon atmosphere at 100° for 15 minutes. Then, the mixture was evaporated in vacuo to dryness, and the resulting oil was chromatographed on silica gel. Elution with ethyl acetate-hexane mixtures afforded 60 mg of the title compound (22% of the theoretical yield).

reactant | 4-nitrobenzyl 2-(4-allylsulphinylazetidin-2-on-1-yl)-3-(4-methoxyphenoxy)-3-thioxopropanate | 422 mg | C(C=C)S(=O)C1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=S)OC1=CC=C(C=C1)OC)=O | C23H22N2O8S2
reactant | triphenylphosphine | 214 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 4-Nitrobenzyl 3-(4-methoxyphenoxy)-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 60 mg | COC1=CC=C(OC2=C(N3C(CC3S2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H16N2O7S
